US07538123B2
110 mg of 7-(2,3-dihydroxypropyl)-6-methoxy-1,2,3,4-tetrahydroquinolin-2-one was dissolved in 2 ml of methanol and 1 ml of tetrahydrofuran. Thereafter, 2 ml of water containing 0.16 g of sodium metaperiodate was added to the reaction solution while cooling on ice. The obtained mixture was stirred at room temperature for 30 minutes. A saturated sodium chloride aqueous solution was added to the reaction solution, followed by extraction with methylene chloride. The extract was dried over magnesium sulfate and then concentrated under a reduced pressure, so as to obtain 87 mg of (6-methoxy-2-oxo-1,2,3,4-tetrahydroquinolin-7-yl)acetaldehyde. This compound was directly used in the following reaction without further purification.

reactant | 7-(2,3-dihydroxypropyl)-6-methoxy-1,2,3,4-tetrahydroquinolin-2-one | 110 mg | OC(CC1=C(C=C2CCC(NC2=C1)=O)OC)CO | C13H17NO4
reactant | water | 2 ml, 0.16 g | O | H2O
reactant | sodium metaperiodate | I(=O)(=O)(=O)[O-].[Na+]
reactant | sodium chloride | [Cl-].[Na+]
solvent | methanol | 2 ml | CO | CH4O
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
product | (6-methoxy-2-oxo-1,2,3,4-tetrahydroquinolin-7-yl)acetaldehyde | 87 mg | COC=1C=C2CCC(NC2=CC1CC=O)=O | C12H13NO3
